US05607932
A mixture of 2-chloro-4-methoxypyrimidine (29 g) and 1-(5-nitro-2-pyridinyl)piperazine (35 g) in tetrahydrothiophene 1,1-dioxide (50 ml) was stirred at 130° C. for 1 hour. The mixture was poured into sodium carbonate and water, stirred for 30 minutes and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered and evaporated. The residue was triturated in diisopropyl ether, yielding 23 g (43%) of 4-methoxy-2-[4-(5-nitro-2-pyridinyl)-1-piperazinyl]pyrimidine (interm. 10).

reactant | 2-chloro-4-methoxypyrimidine | 29 g | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | 1-(5-nitro-2-pyridinyl)piperazine | 35 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCNCC1 | C9H12N4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | tetrahydrothiophene 1,1-dioxide | 50 ml | S1(CCCC1)(=O)=O | C4H8O2S
product | 4-methoxy-2-[4-(5-nitro-2-pyridinyl)-1-piperazinyl]pyrimidine | 23 g, 43% | COC1=NC(=NC=C1)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C14H16N6O3
